US04025515
2-Amino-4-isopropylamino-6-chloro-pyrimidine
In analogous manner to that described in Example 1, 2-amino-4-iso-pentylamino-6-chloro-pyrimidine and 2-amino-4-cyclopentylamino-6-chloro-pyrimidine may be produced. Isolation and purification may be effected in conventional manner.

reactant | 2-amino-4-iso-pentylamino-6-chloro-pyrimidine | NC1=NC(=CC(=N1)NCCC(C)C)Cl | C9H15ClN4
reactant | 2-amino-4-cyclopentylamino-6-chloro-pyrimidine | NC1=NC(=CC(=N1)NC1CCCC1)Cl | C9H13ClN4
product | 2-Amino-4-isopropylamino-6-chloro-pyrimidine | NC1=NC(=CC(=N1)NC(C)C)Cl | C7H11ClN4
